US05607956
1-(2,4-Dimethyl-5-oxazolyl)-1-(3-furyl)-2,2,2-trifluoroethanol
Tetrabutylammonium fluoride (250 mg) was added to a stirred solution of 2,4-dimethyl-5-oxazolyl 3-furyl ketone (1.7 g) and (trifluoromethyl)trimethylsilane (1.9 g) in dry tetrahydrofuran (30 ml) at -10° C. The mixture was allowed to warm to room temperature. After 45 minutes 6M hydrochloric acid (30 ml) was added. After 1 hour the mixture was basified by the addition of saturated aqueous sodium hydrogen carbonate and then extracted with dichloromethane. The material thus obtained was purified by flash chromatography and recrystallisation from diethyl ether.

reactant | Tetrabutylammonium fluoride | 250 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2,4-dimethyl-5-oxazolyl 3-furyl ketone | 1.7 g | O1C=C(C=C1)C(=O)C1=C(N=C(O1)C)C | C10H9NO3
reactant | (trifluoromethyl)trimethylsilane | 1.9 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | hydrochloric acid | 6M, 30 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2,4-Dimethyl-5-oxazolyl)-1-(3-furyl)-2,2,2-trifluoroethanol | CC=1OC(=C(N1)C)C(C(F)(F)F)(O)C1=COC=C1 | C11H10F3NO3
